### PR TITLE
[Merged by Bors] - feat: add card_units_add_one lemma

### PR DESCRIPTION
**Pull request by BoltonBailey**
A lemma to reexpress card_units without subtraction.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by BoltonBailey** [comment]
See [here](https://leanprover.zulipchat.com/#narrow/stream/217875-Is-there-code-for-X.3F/topic/not_dvd_pow_sub_one/near/371786800)

File: Mathlib/Data/Fintype/Units.lean [hunk 1]
```diff
@@ -44,3 +44,10 @@ theorem Fintype.card_units [GroupWithZero α] [Fintype α] [Fintype αˣ] :
     have := Fintype.card_congr (Equiv.sumCompl (· = (0 : α))).symm
     rwa [Fintype.card_sum, add_comm, Fintype.card_subtype_eq] at this
 #align fintype.card_units Fintype.card_units
+
+theorem Fintype.card_units_add_one [GroupWithZero α] [Fintype α] [Fintype αˣ] :
+    Fintype.card αˣ + 1 = Fintype.card α := by
+  classical
+    rw [eq_comm, Fintype.card_congr (unitsEquivNeZero α)]
+    have := Fintype.card_congr (Equiv.sumCompl (· = (0 : α))).symm
+    rwa [Fintype.card_sum, add_comm, Fintype.card_subtype_eq] at this
```
Comment (ocfnash) [inline Mathlib/Data/Fintype/Units.lean:53]: How about:
```suggestion
theorem Fintype.card_eq_card_units_add_one [GroupWithZero α] [Fintype α] :
    Fintype.card α = Fintype.card αˣ + 1 := by
  rw [Fintype.card_units, Nat.sub_add_cancel Fintype.card_pos]
```
Note that this drops the `[Fintype αˣ]` argument because this follows from `[Fintype α]` provided we also add the following:
```lean
noncomputable instance [Monoid α] [Fintype α] : Fintype αˣ := Fintype.ofFinite αˣ
```
In fact that should go above `Fintype.card_units` so that the `[Fintype αˣ]` argument there can also be dropped.

**Review by ocfnash — COMMENTED** [review]
The changes here are fine (modulo the suggestion) but I would prefer to develop the API for `Nat.card` rather than `Fintype.card`.

I presume you have an application: could you use `Nat.card` there?

**Comment by BoltonBailey** [comment]
> The changes here are fine (modulo the suggestion) but I would prefer to develop the API for `Nat.card` rather than `Fintype.card`.
> 
> I presume you have an application: could you use `Nat.card` there?

I am interested in proving 
```
theorem subgroup_of_units_card_ne_zero {F : Type} [Field F] [Fintype F]
    (G : Subgroup (Units (F))) : (Fintype.card G : F) ≠ 0
```
I suppose I could just drop in `Nat.card`, but the `Fintype` stipulation is still necessary to make the theorem true.

File: Mathlib/Data/Fintype/Units.lean (hunk 1 above)
Comment (BoltonBailey) [reply Mathlib/Data/Fintype/Units.lean:53]: @ocfnash Even better would have been to reprove `card_units` using `card_units_add_one`, that way we could use the cancellation lemma without the condition. Are we allowed to modify ported theorem proofs?

Comment (BoltonBailey) [reply Mathlib/Data/Fintype/Units.lean]: (I just went ahead and did it, I assume I'll be told if it's a problem)

**Comment by BoltonBailey** [comment]
The noncomputable Fintype instance [caused problems](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/How.20to.20make.20InferInstance.20ignore.20my.20new.20instance/near/376134852), the fact that I would have to go around locally removing the instance to get other code to work again makes me skeptical that it's the right decision to add it in the first place, especially considering whoever authored the original `card_units` lemma didn't either. We can talk more about it if the reviewers think it's really necessary.

File: Mathlib/Data/Fintype/Units.lean [hunk 2]
```diff
@@ -36,11 +37,18 @@ instance [Monoid α] [Fintype α] [DecidableEq α] : Fintype αˣ :=
...
-    rw [eq_comm, Nat.sub_eq_iff_eq_add (Fintype.card_pos_iff.2 ⟨(0 : α)⟩),
-      Fintype.card_congr (unitsEquivNeZero α)]
-    have := Fintype.card_congr (Equiv.sumCompl (· = (0 : α))).symm
+    rw [eq_comm, Fintype.card_congr (unitsEquivNeZero α)]
+    have := Fintype.card_congr (Equiv.sumCompl (· = (0 : α)))
     rwa [Fintype.card_sum, add_comm, Fintype.card_subtype_eq] at this
+
+theorem Fintype.nat_card_units_add_one [GroupWithZero α] [Fintype α] [Fintype αˣ] :
+    Nat.card α = Nat.card αˣ + 1 := by
+  rw [Nat.card_eq_fintype_card, Nat.card_eq_fintype_card, Fintype.card_units_add_one]
```
Comment (ocfnash) [inline Mathlib/Data/Fintype/Units.lean:49]: You should use either `Fintype` and `Fintype.card` (old) or `Finite` and `Nat.card` (new) but not a mixture. So this should be:
```suggestion
theorem Nat.card_eq_card_units_add_one [GroupWithZero α] [Finite α] :
    Nat.card α = Nat.card αˣ + 1 := by
  have : Fintype α := Fintype.ofFinite α
  classical
    rw [Nat.card_eq_fintype_card, Nat.card_eq_fintype_card, Fintype.card_eq_card_units_add_one]
```

**Review by ocfnash — COMMENTED** [review]
I would still prefer if we could develop the API around the new `Nat.card` rather than the old `Fintype.card`. The problem you encountered with that noncomputable instance I suggested is a great example of the advantages of the new design. (Also, apologies for overlooking this issue when I suggested that problematic instance.)

The statement you mention can be stated using `Nat.card` as follows:
```lean
instance neZero_card_subgroup_units_of_finite_field
    {F : Type} [Finite F] [Field F] (G : Subgroup $ Units F) : NeZero (Nat.card G : F) := by
  sorry
```

Having said all this, the changes here do improve the existing proof of `Fintype.card_units` so I'd be happy to merge them after the suggestions have been applied.

File: Mathlib/Data/Fintype/Units.lean (hunk 2 above)
Comment (BoltonBailey) [reply Mathlib/Data/Fintype/Units.lean:49]: Ok got it, thanks!

File: Mathlib/Data/Fintype/Units.lean [hunk 3]
```diff
@@ -36,11 +37,18 @@ instance [Monoid α] [Fintype α] [DecidableEq α] : Fintype αˣ :=
 
 instance [Monoid α] [Finite α] : Finite αˣ := Finite.of_injective _ Units.ext
 
-theorem Fintype.card_units [GroupWithZero α] [Fintype α] [Fintype αˣ] :
-    Fintype.card αˣ = Fintype.card α - 1 := by
+theorem Fintype.card_units_add_one [GroupWithZero α] [Fintype α] [Fintype αˣ] :
```
[the remark this answers is not in the document]
Comment (BoltonBailey) [reply Mathlib/Data/Fintype/Units.lean]: Wait, do we really want to do change the `[Finite (Units alpha)]` to `[DecidableEq alpha]`? This is making a stronger assumption, why should we do that when it's unnecessary? @ocfnash

[the remark this answers is not in the document]
Comment (BoltonBailey) [reply Mathlib/Data/Fintype/Units.lean]: Or can we infer DecidableEq from Fintype on the units?
